US04416687
Preparation of ethyl 4-[3,5-bis(trifluoromethyl)phenoxy]butyrate
To a stirred solution containing 11.5 g (0.05 mole) of 3,5-ditrifluoromethylphenol, 3.3 g (0.05 mole) of 85% potassium hydroxide, 200 ml of N,N-dimethylformamide and 10 ml of water, 0.055 mole of ethyl 4-bromobutyrate was added in one portion. The stirred reaction mixture was heated at 80°-90° C. for 24 hours. After cooling to 25° C., 500 ml of water and 500 ml of ethyl ether were added; and stirring was continued for 15 minutes. The separated ether layer was washed with water until neutral to litmus and dried over sodium sulfate. The ether was removed in vacuo at a maximum temperature of 80°-90° C. at 1-2 mm of Hg. A product with a ND25 =1.4281 was obtained with a 95% yield.

reactant | 3,5-ditrifluoromethylphenol | 0.05 mole, 11.5 g | C1=C(C=C(C=C1C(F)(F)F)O)C(F)(F)F | C8H4F6O
reactant | potassium hydroxide | 0.05 mole, 3.3 g | [OH-].[K+]
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | ethyl 4-bromobutyrate | 0.055 mole | BrCCCC(=O)OCC | C6H11BrO2
solvent | ethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | water | 500 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | ethyl 4-[3,5-bis(trifluoromethyl)phenoxy]butyrate | 95% yield | FC(C=1C=C(OCCCC(=O)OCC)C=C(C1)C(F)(F)F)(F)F | C14H14F6O3
